US07045539B2
4-Bromo-6-hydroxy-2-(2-isopropyl-3-hydroxy-phenyl)-benzothiazol
4-Bromo-6-methoxy-2-(2-isopropyl-3-methoxy-phenyl)-benzothiazole (60 mg, 0.153 mmol) was treated with boron tribromide under standard condition to give the title compound (30 mg, 54% yield) as a yellow solid. Mass spec: MH+=364.

reactant | 4-Bromo-6-methoxy-2-(2-isopropyl-3-methoxy-phenyl)-benzothiazole | 0.153 mmol, 60 mg | BrC1=CC(=CC2=C1N=C(S2)C2=C(C(=CC=C2)OC)C(C)C)OC | C18H18BrNO2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 4-Bromo-6-hydroxy-2-(2-isopropyl-3-hydroxy-phenyl)-benzothiazol | 30 mg, 54% yield | BrC1=CC(=CC2=C1N=C(S2)C2=C(C(=CC=C2)O)C(C)C)O | C16H14BrNO2S
